US09120804B2
2,2-dimethyl-6-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-4H-benzo[1,4]oxazin-3-one (“C80”)
8-(1-Methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine is coupled with 6-chloro-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one, available by reaction of 2-amino-4-chlorphenol with 2-bromo-2-methyl-propanoyl bromide under basic conditions, using general procedure 2 gave the title compound as a solid.

reactant | 8-(1-Methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | CN1N=CC(=C1)C=1C=2N(C=CN1)N=C(N2)N | C9H9N7
reactant | 6-chloro-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | ClC=1C=CC2=C(NC(C(O2)(C)C)=O)C1 | C10H10ClNO2
reactant | 2-amino-4-chlorphenol | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | 2-bromo-2-methyl-propanoyl bromide | BrC(C(=O)Br)(C)C | C4H6Br2O
product | 2,2-dimethyl-6-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-4H-benzo[1,4]oxazin-3-one | CC1(OC2=C(NC1=O)C=C(C=C2)NC2=NN1C(C(=NC=C1)C=1C=NN(C1)C)=N2)C | C19H18N8O2
